US07855292B2
D. (2R,3R)-1-(tert-Butyl-dimethyl-silyloxy)-3-(3,4-dichloro-phenyl)-butan-2-ol
To a stirred solution of (2R,3R)-3-(3,4-dichloro-phenyl)-butane-1,2-diol (3.20 g, 13.6 mmol) and imidazole (1.39 g, 20.4 mmol) in DCM (28 mL) at rt was added tert-butyldimethylsilyl chloride (TBSCl; 2.15 g, 14.3 mmol). The solution was stirred for 1 h then quenched by addition of satd. aq. NH4Cl (100 mL). The mixture was stirred for 5 min, the layers were separated, and the aqueous layer was extracted with DCM (3×). The combined organic layers were dried (Na2SO4) and concentrated to yield a viscous yellow liquid. The product was purified by flash chromatography (EtOAc/hexanes) to afford 4.52 g (95%) of the desired product as a colorless viscous liquid. 1H NMR (400 MHz, CDCl3): 7.37 (d, J=8.3, 1H), 7.36 (d, J=2.1, 1H), 7.10 (dd, J=8.2, 2.1, 1H), 3.75-3.68 (m, 1H), 3.65 (dd, J=9.9, 3.8, 1H), 3.45 (dd, J=9.9, 7.1, 1H), 2.81 (quint, J=7.0, 1H), 2.37 (d, J=4.0, 1H), 1.25 (d, J=7.2, 3H), 0.89 (s, 9H), 0.07 (s, 3H), 0.06 (s, 3H).

reactant | (2R,3R)-3-(3,4-dichloro-phenyl)-butane-1,2-diol | 13.6 mmol, 3.20 g | ClC=1C=C(C=CC1Cl)[C@H]([C@H](CO)O)C | C10H12Cl2O2
reactant | imidazole | 20.4 mmol, 1.39 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 14.3 mmol, 2.15 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DCM | 28 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R)-1-(tert-Butyl-dimethyl-silyloxy)-3-(3,4-dichloro-phenyl)-butan-2-ol | 4.52 g, 95% | C(C)(C)(C)[Si](OC[C@@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)O)(C)C | C16H26Cl2O2Si
